US04163859
In this manner 7.1 parts of ethyl(4-formylphenoxy)-2,2-dimethylacetate and 4.7 parts of acetophenone in 10 parts by volume of ethanol containing 0.01 part of sodium ethyl are reacted for 2 hours. This reaction mixture is quenched with 100 parts of cold water and extracted with ether. The ether extracts are dried over magnesium sulfate. Filtration of the magnesium sulfate, removal of ether by evaporation at reduced pressure and column chromatography on silica gel provides ethyl 2-[4-(2-benzoylethenyl)phenoxy]-2,2-dimethylacetate melting at 68°to 70° C. Treatment of this ester with alcoholic potassium hydroxide for 2 hours, followed by extraction with ether, and acidification with dilute hydrochloric acid provides a precipitate which is 2-[4-(2-benzoylethenyl)phenoxy]-2,2-dimethylacetic acid.

reactant | ethyl(4-formylphenoxy)-2,2-dimethylacetate | C(C)OC(C(C)(C)OC1=CC=C(C=C1)C=O)=O | C13H16O4
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[4-(2-benzoylethenyl)phenoxy]-2,2-dimethylacetate | C(C1=CC=CC=C1)(=O)C=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C21H22O4
